US07129239B2
Preparation of Intermediate 6-Chloro-N4-(4-chlorophenyl)-pyrimidine-4,5-diamine (I-(1A-1)a)
5-amino-4,6-dichloropyrimidine (5.00 g, 29 mmol) and 4-chloroaniline (4.71 g, 36 mmol) were suspended in 80 ml H2O and 12 ml ethanol. Concentrated HCl (1.2 ml, 14.5 mmol) was added at room temperature followed by warming reaction to 82° C. After stirring for 19 hours the reaction was cooled to room temperature and stirred for 60 hours. The precipitate was collected on a sintered glass funnel and rinsed with water followed by hexanes. After drying under vacuum, I-(1A-1)a was obtained as an off-white solid (7.38 g, 98%): +ESI MS (M+1) 255.3; 1H NMR: (400 MHz, CD3OD): δ 7.87 (s, 1H), 7.66 (d, J=8.7 Hz, 2 H), 7.30 (d, J=8.7 Hz, 2 H).

reactant | 5-amino-4,6-dichloropyrimidine | 29 mmol, 5.00 g | NC=1C(=NC=NC1Cl)Cl | C4H3Cl2N3
reactant | 4-chloroaniline | 36 mmol, 4.71 g | ClC1=CC=C(N)C=C1 | C6H6ClN
reactant | HCl | 14.5 mmol, 1.2 ml | Cl | ClH
solvent | H2O | 80 ml | O | H2O
solvent | ethanol | 12 ml | C(C)O | C2H6O
product | 6-Chloro-N4-(4-chlorophenyl)-pyrimidine-4,5-diamine | 7.38 g, 98% | ClC1=C(C(=NC=N1)NC1=CC=C(C=C1)Cl)N | C10H8Cl2N4
